US05994354
A stirred solution of 5-(3-chloropropyl)-3-phenylmethyleneamino-2-oxazolidinone (2.7 g, 0.0101 mole), dimethylformamide (75 ml) and piperidine (2.15 g, 0.0253 mole, 2.5 eq.) is heated to reflux. Reflux is maintained for 2 hours. After cooling, the solution is concentrated under reduced pressure to a solid-oily residue. This residue is suspended in H2O (200 ml) then extracted with ethyl acetate (3×100 ml). The ethyl acetate is dried over MgSO4, filtered, then concentrated under reduced pressure to an oily-solid residue. This residue is triturated in hexane by stirring 1 hours. The solid is collected and air-dried giving 1.67 g (0.0053 mole) of 3-phenylmethyleneamino-5-[3-(1-piperidinyl)propyl]-2-oxazolidinone.

reactant | 5-(3-chloropropyl)-3-phenylmethyleneamino-2-oxazolidinone | 0.0101 mole, 2.7 g | ClCCCC1CN(C(O1)=O)N=CC1=CC=CC=C1 | C13H15ClN2O2
reactant | piperidine | 0.0253 mole, 2.15 g, 2.5 eq. | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-phenylmethyleneamino-5-[3-(1-piperidinyl)propyl]-2-oxazolidinone | 0.0053 mole, 1.67 g | C1(=CC=CC=C1)C=NN1C(OC(C1)CCCN1CCCCC1)=O | C18H25N3O2
